US05990105
A mixture of 191 mg (0.5 mmole) 4-(2-bromo-6-pyrrolidine-1-yl-pyridine-4-sulfonyl)-phenylamine, 77 mg (0.55 mmole) 4-fluorophenylboronic acid, 18 mg bis(triphenylphosphine)-palladium(II)-chloride is refluxed for 2 hours in 7 ml toluene and 2 ml 2N aqueous potassium carbonate. The solvents are removed in vacuo. Flash chromatography (silicagel, ethyl acetate/hexane 1/1) of the residue yields 45 mg (22%) pure 4-[2-(4-fluoro-phenyl)-6-pyrrolidine-1-yl-pyridine-4-sulfonyl]-phenylamine as a white solid mp.: 245-246° C.

reactant | 4-(2-bromo-6-pyrrolidine-1-yl-pyridine-4-sulfonyl)-phenylamine | 0.5 mmole, 191 mg | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)N1CCCC1 | C15H16BrN3O2S
reactant | 4-fluorophenylboronic acid | 0.55 mmole, 77 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | potassium carbonate | 2N, 2 ml | C([O-])([O-])=O.[K+].[K+]
catalyst | bis(triphenylphosphine)-palladium(II)-chloride | 18 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-[2-(4-fluoro-phenyl)-6-pyrrolidine-1-yl-pyridine-4-sulfonyl]-phenylamine | 45 mg, 22% | FC1=CC=C(C=C1)C1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)N1CCCC1 | C21H20FN3O2S
